US07148249B2
1-acetyl-6-fluoro-2-indolinone
82.5 g of 6-fluoro-2-indolinone are stirred in 180 ml acetic anhydride for 3 hours at 130° C. After cooling to ambient temperature the precipitate is suction filtered, washed with 100 ml petroleum ether and dried.

reactant | 6-fluoro-2-indolinone | 82.5 g | FC1=CC=C2CC(NC2=C1)=O | C8H6FNO
reactant | acetic anhydride | 180 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-acetyl-6-fluoro-2-indolinone | C(C)(=O)N1C(CC2=CC=C(C=C12)F)=O | C10H8FNO2
